US07632851B2
4Benzo[1,2,5]oxadiazol-5-yl-N-(2-fluoro-ethyl)-nicotinamide
Starting from 4-chloro-benzo[1,2,5]oxadiazole and 5-bromo-N-(2-fluoro-ethyl)-nicotinamide. Beige powder. MS(ES−): 285 (M−1).

reactant | 4-chloro-benzo[1,2,5]oxadiazole | ClC1=CC=CC=2C1=NON2 | C6H3ClN2O
reactant | 5-bromo-N-(2-fluoro-ethyl)-nicotinamide | BrC=1C=NC=C(C(=O)NCCF)C1 | C8H8BrFN2O
product | 4Benzo[1,2,5]oxadiazol-5-yl-N-(2-fluoro-ethyl)-nicotinamide | N1=C2C(=NO1)C=C(C=C2)C2=CC=NC=C2C(=O)NCCF | C14H11FN4O2
